US07291643B2
Tert-butyl 2-cyano-5-{4-{(ethylsulfonyl)amino]phenyl}-1H-pyrrole-1-carboxylate
tert-Butyl 2-{4-[(ethylsulfonyl)amino]phenyl}-1H-pyrrole-1-carboxylate (3.0 g, 8.58 mmol) was dissolved in tetrahydrofuran (85 mL) and cooled to −78° C., followed by the slow addition of chlorosulfonyl isocyanate. After tert-Butyl 2-{4-[(ethylsulfonyl)amino]phenyl}-1H-pyrrole-1-carboxylate was consumed, dimethyl formamide (6.86 mL) was added and the solution allowed to warm to room temperature. After 2 hours, the mixture was cooled and partitioned between water and diethyl ether. The combined organic layers were dried over magnesium sulfate, and concentrated. The residue was purified by silica gel flash chromatography (hexane/ethyl acetate; 7:3) to afford the title compound (1.84 g, 57%). The title compound was used immediately in the next step.

reactant | tert-Butyl 2-{4-[(ethylsulfonyl)amino]phenyl}-1H-pyrrole-1-carboxylate | 8.58 mmol, 3.0 g | C(C)S(=O)(=O)NC1=CC=C(C=C1)C=1N(C=CC1)C(=O)OC(C)(C)C | C17H22N2O4S
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
product | Tert-butyl 2-cyano-5-{4-{(ethylsulfonyl)amino]phenyl}-1H-pyrrole-1-carboxylate | 1.84 g, 57% | C(#N)C=1N(C(=CC1)C1=CC=C(C=C1)NS(=O)(=O)CC)C(=O)OC(C)(C)C | C18H21N3O4S
